US07547710B2
A mixture of tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-trifluoromethanesulfonyloxy-quinolin-3-yl]methylcarbamate (0.50 g, 0.90 mmol), boron bispinacolate (0.25 g, 1.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium-dichloromethane (1:1) complex (0.020 g, 0.027 mmol), potassium acetate (0.27 g, 2.7 mmol) and dimethyl sulfoxide (20 ml) was stirred under an argon atmosphere at 100° C. for 15 min. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and a mixture of the residue, 2-chlorothiazole (0.17 g, 0.90 mmol), tetrakis(triphenylphosphine)palladium (0.10 g, 0.090 mmol), potassium carbonate (0.63 g, 4.5 mmol), ethanol (4 ml), toluene (20 ml) and water (4 ml) was stirred under an argon atmosphere at 100° C. for 17 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography. The obtained mixture was dissolved in tetrahydrofuran-methanol (1:1, 8 ml) and 1N aqueous sodium hydroxide solution (2 ml) was added. The mixture was stirred at room temperature for 15 min. 1N Hydrochloric acid (50 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate-tetrahydrofuran (1:1, 100 ml). The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylic acid (0.17 g, yield 36%) as pale-yellow crystals.

reactant | tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-trifluoromethanesulfonyloxy-quinolin-3-yl]methylcarbamate | 0.90 mmol, 0.50 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OS(=O)(=O)C(F)(F)F | C27H31F3N2O5S
reactant | boron | [B] | B
reactant | potassium acetate | 2.7 mmol, 0.27 g | C(C)(=O)[O-].[K+]
reactant | 2-chlorothiazole | 0.90 mmol, 0.17 g | ClC=1SC=CN1 | C3H2ClNS
reactant | potassium carbonate | 4.5 mmol, 0.63 g | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
catalyst | tetrakis(triphenylphosphine)palladium | 0.090 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 4 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylic acid | 0.17 g, yield 36% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)O)CC(C)C | C30H33N3O4S
